* C:\users\omar\My Documents\University\IX_Semester\Disenio\Easyrun\Circuit Design\LTspice Simulations\Controller.asc
V4 N001 N002 SINE(0 {V*sqrt(2)} 60 0)
D2 tap1 Vodc 1N5819
C3 Vodc 0 330µ
R1 Vodc 0 11.066
L1 N001 N002 10 Rser=1m
L2 tap1 0 100m Rser=1m
L3 0 tap2 100m Rser=1m
D1 tap2 Vodc 1N5819
XU1 NC_01 NC_02 NC_03 NC_04 NC_05 NC_06 NC_07 NC_08 NC_09 NC_10 NC_11 NC_12 NC_13 NC_14 NC_15 NC_16 tl494
.model D D
.lib C:\users\omar\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 600m 500m
K1 L1 L2 L3 1
.param V = 120*0.95
.lib C:\users\omar\My Documents\University\IX_Semester\Disenio\Easyrun\Circuit Design\LTspice Simulations\TL494_repaired.net
.backanno
.end
